datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]1([H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([O:7][O:8])([H:23])[C:9]([H:24])([H:25])[C:10]1([H:26])[H:27])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([C:3]1([H:18])[C:4]([H:20])[C:5]([H:21])([H:22])[C:6]([O:7][O:8][H:19])([H:23])[C:9]([H:24])([H:25])[C:10]1([H:26])[H:27])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13],86.052328
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([S:8][H:14])[C:9](=[S:10])[H:15])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:11])([H:12])[H:13])([S:8][H:14])[C:9](=[S:10])[H:15],236.019
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]1([C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],37.4992
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],9.16296
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[H:26],21.2129
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])[H:17])[H:16])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])=[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:10])([H:11])[H:12],89.0774
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0]([S:1])([H:2])([H:3])[C:5]([C:4]([H:8])([H:9])[H:10])([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16],-21.7568
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][O:9][H:10]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8][O:9][H:10],58.19944
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:9])[H:8],18.2004
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])[H:12],40.4174
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],16.3176
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:12],97.4035
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14])[H:10])([H:8])[H:9],58.5342
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])([H:12])[H:13].[C:34](=[O:35])[H:36]>>[C-:34]#[O+:35].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:14])[H:36])([H:11])([H:12])[H:13],0.0
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])([H:8])[H:9],28.3675
